US07528147B2
0.080 g of 2-[5,6-dimethoxy-1-(2-methoxyethyl)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is added, at a temperature in the region of 20° C., to a solution of 3.1 ml of methanolic potassium hydroxide (0.1 g/ml; 1.78M). The reaction medium is agitated at this same temperature for 5 hours. The reaction medium is then heated at 50° C. for 4 hours. After cooling, the solid formed is filtered off through sintered glass, washed twice with 3 ml of methanol, and then 5 times with 5 ml of water. The solid is dried in an oven (35° C.) under vacuum. 0.019 g of 2-[5,6-dimethoxy-1-(2-methoxyethyl)-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine is thus obtained, the characteristics of which are as follows:

reactant | 2-[5,6-dimethoxy-1-(2-methoxyethyl)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.080 g | COC=1C=C2C(=CN(C2=CC1OC)CCOC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C27H27N3O5S
reactant | potassium hydroxide | 1.78M, 3.1 ml | [OH-].[K+]
product | 2-[5,6-dimethoxy-1-(2-methoxyethyl)-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 0.019 g | COC=1C=C2C(=CN(C2=CC1OC)CCOC)C1=CC=2C(=NC=CC2)N1 | C20H21N3O3
